US04638088
Part C: Preparation of 1-(2-chlorobenzoyl)-3-[2,5-dimethyl-3-chloro-4-(2-chloro-4-phenylphenoxy) phenyl]urea
To a solution containing 1.61 grams (0.004 moles) of 4-(2-chloro-4-phenylphenoxy)-2,5-dimethyl-3-chloroaniline prepared in Part B and 3 milliliters of toluene, which solution was warmed to 40° C.-50° C. and placed under an atmosphere of nitrogen, was added a solution containing 0.98 grams (0.005 moles) of 2-chlorobenzoyl isocyanate and 0.05 milliliters of toluene. The resulting mixture was then heated to a temperature of 60° C.-70° C, for a period of 0.5-1.0 hours. After cooling to ambient temperature, the reaction mixture was diluted with 4 milliliters of toluene and 2 milliliters of hexane. This mixture was then filtred to give a solid material. The solid material was washed once with a toluene-hexane mixture (1:2 volume ratio) and finally once with hexane and then dried overnight in a vaccum oven at 50° C. This afforded a tan powder material having a melting point of 198° C.-199° C. Elemental analysis of the tan powder indicated the following:

reactant | 4-(2-chloro-4-phenylphenoxy)-2,5-dimethyl-3-chloroaniline | 0.004 moles, 1.61 grams | ClC1=C(OC2=C(C(=C(N)C=C2C)C)Cl)C=CC(=C1)C1=CC=CC=C1 | C20H17Cl2NO
reactant | 2-chlorobenzoyl isocyanate | 0.005 moles, 0.98 grams | ClC1=C(C(=O)N=C=O)C=CC=C1 | C8H4ClNO2
solvent | toluene | 4 milliliters | C1(=CC=CC=C1)C | C7H8
solvent | hexane | 2 milliliters | CCCCCC | C6H14
solvent | toluene | 0.05 milliliters | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 3 milliliters | C1(=CC=CC=C1)C | C7H8
product | 1-(2-chlorobenzoyl)-3-[2,5-dimethyl-3-chloro-4-(2-chloro-4-phenylphenoxy) phenyl]urea | ClC1=C(C(=O)NC(=O)NC2=C(C(=C(C(=C2)C)OC2=C(C=C(C=C2)C2=CC=CC=C2)Cl)Cl)C)C=CC=C1 | C28H21Cl3N2O3
